US06531502B1
To a heterogeneous mixture of 4-(2-dimethylcarbamoyl-ethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (1.01 g, 4 mmol) in THF (9 mL) was added dropwise 8 mL of borane-tetrahydrofuran complex (1M in THF). The mixture was refluxed overnight. Then 9.0 mL of MeOH was added slowly to the reaction and refluxing was continued for another 2 hr. The reaction mixture was cooled, quenched with 1N HCl and extracted with EtOAc. The aqueous layer was basified with aqueous KOH and extracted with EtOAc. The EtOAc extract was washed with brine, dried and concentrated to give 616 mg (65%) of 4-(3-dimethylaminopropyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester as a faint orange oil.

reactant | 4-(2-dimethylcarbamoyl-ethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 4 mmol, 1.01 g | C(C)OC(=O)C1=C(NC=C1CCC(N(C)C)=O)C | C13H20N2O3
reactant | borane tetrahydrofuran | 1M, 8 mL | B.O1CCCC1
reactant | MeOH | 9.0 mL | CO | CH4O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 4-(3-dimethylaminopropyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 616 mg, 65% | C(C)OC(=O)C1=C(NC=C1CCCN(C)C)C | C13H22N2O2
